US04039546
The 2,4-bis(trimethylsilyloxy)-5-fluoropyrimidine is prepared by heating to 140° C. 217.5 g (1.67 mole) of 5-fluorouracil, 322.0 g (2.0 mole) of hexamethyldisiloxane and 13.8 ml of trimethylchlorosilane until the solid phase 5-fluorouracil disappears.

reactant | 5-fluorouracil | 1.67 mole, 217.5 g | FC=1C(NC(NC1)=O)=O | C4H3FN2O2
reactant | hexamethyldisiloxane | 2.0 mole, 322.0 g | C[Si](O[Si](C)(C)C)(C)C | C6H18OSi2
reactant | trimethylchlorosilane | 13.8 ml | C[Si](Cl)(C)C | C3H9ClSi
product | 2,4-bis(trimethylsilyloxy)-5-fluoropyrimidine | C[Si](OC1=NC=C(C(=N1)O[Si](C)(C)C)F)(C)C | C10H19FN2O2Si2
